US20010036944A1
2-[Hydroxy(7-methoxy-benzo[1,3]-dioxol-5-yl)methyl]N-o-tolyl-benzenesulfonamide
To tetrahydrofuran (200 mL) was added N-o-tolyl-benzenesulfonamide (4.95 g, 20 mmol). After cooling to 72° C., a solution of n-butyllithium (1.6 M, 25 mL in hexane) was added, and the mixture was stirred for 3 hours at 72° C. A solution of 3-methoxy-4,5methylenedioxybenzaldehyde (3.60 g, 20 mmol) in tetrahydrofuran (70 mL) was added, and the mixture was stirred and warmed to 0° C. over 1.5 hours. The mixture was poured into 200 mL saturated ammonium chloride solution, and the organic phase was decanted. The solvent was evaporated in vacuo and the residue was suspended in ethyl ether, washed with saturated sodium bicarbonate and brine solutions. The solution was dried over anhydrous magnesium sulfate, filtered, and evaporated to give a syrup which was chromatographed on 500 g silica gel eluted with a mixture of ethyl acetate and hexane (35:65). The appropriate fractions were concentrated in vacuo and crystallized giving a solid, 4.15 g, 48.6% yield, mp 155-158° C. NMR spectra and elemental analysis were consistent with the structure.

reactant | N-o-tolyl-benzenesulfonamide | 20 mmol, 4.95 g | C1(=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1)C | C13H13NO2S
reactant | n-butyllithium | 1.6 M, 25 mL | C(CCC)[Li]
reactant | 3-methoxy-4,5methylenedioxybenzaldehyde | 20 mmol, 3.60 g | COC=1C=C(C=O)C=C2C1OCO2 | C9H8O4
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2-[Hydroxy(7-methoxy-benzo[1,3]-dioxol-5-yl)methyl]N-o-tolyl-benzenesulfonamide | 48.6% yield | OC(C1=C(C=CC=C1)S(=O)(=O)NC1=C(C=CC=C1)C)C1=CC2=C(OCO2)C(=C1)OC | C22H21NO6S
